Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
foot pain
 
Major Surgical or Invasive Procedure:
Toe amputation

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH of DM2 (on insulin),
HTN/HLD, Hx of stroke, GERD, Prostate CA s/p XRT, Hx of L ___ 
toe
amputation in ___, but otherwise generally healthy sent in
from ___ clinic with likely L ___ toe osteomyelitis,
erythema and edema of entire left leg.  He presented to clinic
with a new wound of the left second toe. Patient and family 
first
noticed new wound last ___ but they believe it has been
present for longer. He reports pain in the leg for the past 3
days. Patient has noticed some drainage but denies any 
purulence.
His only symptom at this moment is increased pain. He overall
feels well, he denies any fevers, chills, nausea, vomiting, and
his PO intake has been normal.   
   
In the ED, initial VS were 97.8 75 150/66 18 100% RA.  Labs
notable for no leukocytosis or left shift, BUN/Cr ___
(baseline Cr 1.0-1.2), lytes WNL, Lactate 1.3.  Arterial duplex
studies were performed (report pending).  LENIs were performed
and were negative for LLE DVT.  CXR was performed and revealed
RLL opacity concerning for pneumonia.  Foot XRs were performed
and showed cortical irregularity concerning for acute
osteomyelitis.  L ___ toe wound culture was obtained; no PMNs
were seen but GPCs in pairs and clusters were seen on gram 
stain.
BCx were collected x2, the patient was started on vancomycin and
was admitted.  

On arrival to the floor, the patient was comfortable and had no
complaints.  Of note, he denied any cough, shortness of breath,
or sputum production.

ROS: A 10-point review of systems was performed and was negative
with the exception of those systems noted in the HPI. 

 
Past Medical History:
HTN
hyperlipidemia
GERD
hyperparathyroidism
"congentital retinal anomaly"
cataracts
DM, poor control
stroke
sciatica
Anemia
B12 deficiency
Prostate cancer s/p external beam radiation and Zomeda
melanoma resected from the left leg
 
Social History:
___
Family History:
- Daughter with diabetes. No family history of stroke.
 
Physical Exam:
VITALS:  98.7 PO 158 / 76 72 18 95 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.  Left lower extremity
with moderate amount of pitting edema to the knee, no edema on
the R.  No calf tenderness.  Toe dressing not taken down;
clean/dry/intact.  ___ are not palpable on the L.
SKIN: No rashes or ulcerations noted on exposed skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 11:40AM BLOOD WBC-7.8 RBC-4.15* Hgb-11.1* Hct-35.9* 
MCV-87 MCH-26.7 MCHC-30.9* RDW-12.7 RDWSD-39.9 Plt ___
___ 06:55AM BLOOD WBC-7.5 RBC-3.87* Hgb-10.3* Hct-33.3* 
MCV-86 MCH-26.6 MCHC-30.9* RDW-12.6 RDWSD-39.4 Plt ___
___ 11:40AM BLOOD Glucose-125* UreaN-34* Creat-1.2 Na-141 
K-4.3 Cl-102 HCO3-26 AnGap-13
___ 11:40AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.4
___ 11:50AM BLOOD Lactate-1.3

CXR:
IMPRESSION: 
 
Right lower lobe opacity, worrisome for pneumonia.  Recommend 
followup to
resolution.

art duplex:
IMPRESSION: 
 
Poor quality study.  Color Doppler flow seen in the left 
posterior tibial and
left peroneal artery, with poor characterization of the left 
anterior tibial
artery.
 
RECOMMENDATION(S):  Consider alternative imaging modality to 
further
characterize distal left lower extremity arteries as clinically 
indicated

ABI:
IMPRESSION: 
 
Evidence of arterial occlusive disease the distal lower 
extremities
bilaterally.
Compared to prior in ___ findings are similar.
 
Brief Hospital Course:
Mr. ___ is a ___ man with a PMH of DM2 (on insulin), 
HTN/HLD, Hx of stroke, GERD, Prostate CA s/p XRT, Hx of L ___ 
toe amputation in ___, sent in from ___ clinic with 
acute osteomyelitis of the L ___ toe.

Acute L ___ toe osteomyelitis:
PVD:
Supported by ulcer probing to bone on exam and finding of 
cortical irregularity on XR.  Podiatry following, s/p toe 
amputation ___. Path and micro pending on discharge.  Podiatry 
felt that they got good margins as they amputated well beyond 
infected area.  ABI and NIAS reviewed and no interventions 
required at this time.  Podiatry felt comfortable with discharge 
home on a short course of antibiotics and will review the final 
pathology on follow up.  He was discharged on Augmentin x7 days, 
with wound care.  He may follow up with vascular as well pending 
his wound healing for angiogram,
 
Abnormal CXR:
Patient is completely without pulmonary symptoms to suggest 
pneumonia; he is afebrile and without a leukocytosis or 
neutrophilia, no cough. 
- Repeat CXR in 6 weeks to assess for resolution; if persists, 
would obtain CT chest. PCP ___. 

Type II Diabetes Mellitus with vascular complications
Outpatient A1Cs in the ___ range, appropriate for someone his 
age.  FSBG well controlled on slightly lower home lantus dose
- reduced lantus to 8units, will resumed home dose on DC given 
adequate FSBG 

Anemia of chronic disease
Stable from prior, likely anemia of inflammation

Hypertension 
- amlodipine/lisinopril
- Resumed Lasix on DC

Overactive bladder
- hold home trospium (non formulary), resumed on DC

Hypothyroidism:
- Continuedd home Levothyroxine Sodium 25 mcg PO DAILY 

Dyslipidemia
- Continued atorvastatin 

Cardiovascular prevention / PVD / Hx of stroke
- hold full-dose aspirin, resumed on DC

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 7.5 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Furosemide 20 mg PO DAILY 
6. trospium 20 mg oral DAILY 
7. Glargine 10 Units Bedtime
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 
3.  Glargine 10 Units Bedtime 
4.  amLODIPine 7.5 mg PO DAILY  
5.  Aspirin 325 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Furosemide 20 mg PO DAILY  
9.  Levothyroxine Sodium 25 mcg PO DAILY  
10.  Lisinopril 40 mg PO DAILY  
11.  trospium 20 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute left toe osteomyelitis
PVD
DM2
Anemia
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for an infection in your left foot.  Your toe 
was amputated by podiatry with good result.  You were also seen 
by the vascular team.  It will be important to follow up as 
scheduled with the Podiatrists, continue wound care of your 
foot, and take all medications as prescribed
 
Followup Instructions:
___